US04659726
The 1-ethylpyrrole-2-carbonitrile obtained above (3.0 g, 25 mmole) is dissolved in a solution of triethylamine (12.5 g, 125 mmole) in pyridine (13 ml), and therein hydrogen sulfide is blown at 20° C. for 6 hours. To the reaction mixture is added water (300 ml). The precipitated crystals are separated by filtration, dried, and then recrystallized from ligroin to give 1-ethylpyrrole-2-carbothioamide (2.5 g, yield: 65%).

reactant | 1-ethylpyrrole-2-carbonitrile | C(C)N1C(=CC=C1)C#N | C7H8N2
reactant | triethylamine | 125 mmole, 12.5 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
reactant | water | 300 ml | O | H2O
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethylpyrrole-2-carbothioamide | 2.5 g, yield: 65% | C(C)N1C(=CC=C1)C(N)=S | C7H10N2S
